US07517873B2
A mixture of 0.14 g (0.0005 mole) of (rac)-2-chloro-9-cyclopropyl-5,7,8-trimethyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one (VII-46), 0.10 g (0.0006 mole) of 4-amino-3-methoxy-benzoic acid, 0.5 mL of ethanol, 2 mL of water, and 2 drops of hydrochloric acid was heated at 100 degrees overnight. Upon cooling, a precipitate formed which was collected by filtration to give 0.145 g of (rac)-4-(9-cyclopropyl-5,7,8-trimethyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-benzoic acid (I-46a) as an off-white solid.

reactant | (rac)-2-chloro-9-cyclopropyl-5,7,8-trimethyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one | 0.0005 mole, 0.14 g | ClC=1N=CC2=C(N(C(C(C(N2C)=O)C)C)C2CC2)N1 | C13H17ClN4O
reactant | 4-amino-3-methoxy-benzoic acid | 0.0006 mole, 0.10 g | NC1=C(C=C(C(=O)O)C=C1)OC | C8H9NO3
reactant | ethanol | 0.5 mL | C(C)O | C2H6O
catalyst | hydrochloric acid | 2 drops | Cl | ClH
solvent | water | 2 mL | O | H2O
product | (rac)-4-(9-cyclopropyl-5,7,8-trimethyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-benzoic acid | 0.145 g | C1(CC1)N1C2=C(N(C(C(C1C)C)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)O)C=C2)OC | C21H25N5O4
